US08247415B2
2-(1,3-Thiazol-4-yl)butanoic acid was prepared from commercially available 1,3-thiazol-4-ylacetic acid and ethyl iodide using a procedure analogous to that used to prepare Intermediate 26. 1H NMR (500 MHz, CDCl3) δ: 0.95 (t, J=7.3, 3H), 1.25 (t, J=7.3, 3H), 1.95-2.05 (m, 1H), 2.08-2.17 (m, 1H), 3.88 (t, J=7.6, 1H), 4.15-4.23 (m, 2H), 7.22 (d, J=1.8, 1H), 8.77 (d, J=1.8, 1H).

reactant | 1,3-thiazol-4-ylacetic acid | S1C=NC(=C1)CC(=O)O | C5H5NO2S
reactant | ethyl iodide | C(C)I | C2H5I
product | 2-(1,3-Thiazol-4-yl)butanoic acid | S1C=NC(=C1)C(C(=O)O)CC | C7H9NO2S
